US08486952B2
A mixture of formic acid (60 mL, 84 mmol) and hydrogen peroxide (15 mL, 84 mmol) was warmed at 40° C. for 10 min. The resulting solution was carefully added to 1-chloro-4-cyclopentenylbenzene (15 g, 84 mmol) under stirring. The two-phase system was initially stirred at room temperature. After a certain period of time, a spontaneous exothermic reaction took place, and the temperature rose to about 50° C. The reaction mixture was stirred at room temperature for 1 h. The LC/MS analysis of the reaction mixture shows the disappearance of the starting material and the formation of the product. The reaction mixture was quenched by careful addition of a saturated sodium bicarbonate solution. Ether was added and the reaction mixture was vigorously shaken. The organic layer was separated and the aqueous layer was extracted with ether. The combined organic extracts were dried over anhydrous magnesium sulfate and filtered. The solvent was removed in vacuum and the residue was purified by column chromatography on silica gel to give 2-(4-chlorophenyl)cyclopentanone (5.7 g, 29.3 mmol, 34.9% yield) as a colorless oil. LC-MS (M+H)+=195.2. 1H NMR (500 MHz, CDCl3) δ ppm 7.21-7.37 (2H, m), 7.11 (2H, d, J=8.5 Hz), 3.25 (1H, dd, J=11.6, 8.5 Hz), 2.44 (2H, d, J=6.1 Hz), 2.15-2.31 (1H, m), 1.96-2.15 (3H, m), 1.78-1.95 (1H, m).

reactant | formic acid | 84 mmol, 60 mL | C(=O)O | CH2O2
reactant | hydrogen peroxide | 84 mmol, 15 mL | OO | H2O2
reactant | 1-chloro-4-cyclopentenylbenzene | 84 mmol, 15 g | ClC1=CC=C(C=C1)C1=CCCC1 | C11H11Cl
product | 2-(4-chlorophenyl)cyclopentanone | 29.3 mmol, 5.7 g, 34.9% yield | ClC1=CC=C(C=C1)C1C(CCC1)=O | C11H11ClO
